US08497271B2
Part A. (R)-t-Butoxycarbonylamino-(4-hydroxy-phenyl)-acetic acid methyl ester
(R)-(−)-2-phenylglycine methyl ester hydrochloride (2.17 g, 10 mmol) and di-t-butyl di-carbonate (2.62 g, 12 mmol) were combined in tetrahydrofuran (100 ml). Triethylamine (1.60 ml, 22 mmol) was added to the mixture via syringe at room temperature. The reaction mixture was stirred at room temperature overnight. The THF in reaction mixture was then removed in vacuum. Saturated aqueous NH4Cl and ethyl acetate were added to the mixture in a separatory funnel. The aqueous layer was extracted with ethyl acetate (3×40 ml). The combined organic layer was washed with saturated aqueous NH4Cl, dried over MgSO4, filtered and concentrated to give a white solid (3.08 g, crude product): 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.20 (d, J=8.1 Hz, 2H), 6.77 (m, 2H), 5.73 (br. s., 1H), 5.56 (br. s., 1H), 5.25 (d, J=6.6 Hz, 1H), 3.73 (s, 3H), 1.46 (s, 9H) LCMS (ESI) m/e 282.1 [(M+H)+, calcd for C14H20NO5 282.3].

reactant | (R)-(−)-2-phenylglycine methyl ester hydrochloride | 10 mmol, 2.17 g | Cl.COC([C@H](N)C1=CC=CC=C1)=O
reactant | di-t-butyl di-carbonate | 12 mmol, 2.62 g | C(OC(C)(C)C)([O-])=O.C(OC(C)(C)C)([O-])=O
reactant | Triethylamine | 22 mmol, 1.60 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | (R)-t-Butoxycarbonylamino-(4-hydroxy-phenyl)-acetic acid methyl ester | COC([C@@H](C1=CC=C(C=C1)O)NC(=O)OC(C)(C)C)=O | C14H19NO5
